US05849757
Next, 4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone is allowed to react with benzyl bromide or benzyl chloride using a base to yield 1-benzyl-4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone.

reactant | 4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone | C(C)(C)(C)OC(=O)NC1(CCC1)C1CC(NC1)=O | C13H22N2O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1-benzyl-4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone | C(C1=CC=CC=C1)N1C(CC(C1)C1(CCC1)NC(=O)OC(C)(C)C)=O | C20H28N2O3
